US08455477B2
6-bromo-4-methoxypyrazolo[1,5-a]pyridine-3-carbaldehyde (100 mg, 0.365 mmol), hydroxylamine hydrochloride (27.9 mg, 0.401 mmol) and sodium bicarbonate (33.7 mg, 0.401 mmol) were suspended in absolute ethanol (4 ml) and stirred for 1 h (heavy colorless precipitate forms). The mixture was concentrated to dryness, then diluted in 8 mL of water and stirred for 5 minutes. The solid was filtered, washed with water, then placed under vacuum overnight to afford 6-bromo-4-methoxypyrazolo[1,5-a]pyridine-3-carbaldehyde oxime as a mixture of oxime isomers.

reactant | 6-bromo-4-methoxypyrazolo[1,5-a]pyridine-3-carbaldehyde | 0.365 mmol, 100 mg | BrC=1C=C(C=2N(C1)N=CC2C=O)OC | C9H7BrN2O2
reactant | hydroxylamine hydrochloride | 0.401 mmol, 27.9 mg | Cl.NO
reactant | sodium bicarbonate | 0.401 mmol, 33.7 mg | C([O-])(O)=O.[Na+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 6-bromo-4-methoxypyrazolo[1,5-a]pyridine-3-carbaldehyde oxime | BrC=1C=C(C=2N(C1)N=CC2C=NO)OC | C9H8BrN3O2
